US06809110B2
In analogy to the procedure described in example 1 d], [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester (example 7 a]) was reacted with 2-[2-(4-methoxy-phenyl)-thiazol-4-yl]-ethanol (prepared from 4-methoxy-thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a] to yield 4-chloromethyl-2-(4-methoxy-phenyl)-thiazole, followed by side chain elongation in analogy to the sequence described in examples 13 a] to 13 d]) in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-2-ethoxy-3-(3-fluoro-4-{2-[2-(4-methoxy-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-2-ethoxy-3-(3-fluoro-4-{2-[2-(4-methoxy-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-propionic acid as a light yellow solid.

reactant | [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OCC)=O | C13H17FO4
reactant | 2-[2-(4-methoxy-phenyl)-thiazol-4-yl]-ethanol | COC1=CC=C(C=C1)C=1SC=C(N1)CCO | C12H13NO2S
reactant | 4-methoxy-thiobenzamide | COC1=CC=C(C(=S)N)C=C1 | C8H9NOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(4-methoxy-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)OC | C11H10ClNOS
